US06046214
(3R,4R,5R)-3-Benzyloxy-1-(n-butyl)-5-hydroxymethyl-4-piperidinol (105 mg, 0.4 mmol) was dissolved in ethanol (20ml) containing aqueous hydrochloric acid (4N, 0.3 ml), and palladium on carbon (10%, 30mg) was added. The mixture was hydrogenated at 1 atm. H2 -pressure for 3h, filtered through celite and concentrated in vacuo. Purification on a silica gel column (Eluent: ethyl acetate/methanol/25% ammonium hydroxide (4/1/1%)) gave the free base of (3R,4R,5R)-1-butyl-5-hydroxymethyl-3,4-piperidinediol (Yield: 53 mg, 74%) as a semicrystalline compound.

reactant | (3R,4R,5R)-3-Benzyloxy-1-(n-butyl)-5-hydroxymethyl-4-piperidinol | 0.4 mmol, 105 mg | C(C1=CC=CC=C1)O[C@@H]1CN(C[C@@H]([C@H]1O)CO)CCCC | C17H27NO3
reactant | hydrochloric acid | 4N, 0.3 ml | Cl | ClH
solvent | ethanol | 20ml | C(C)O | C2H6O
catalyst | palladium on carbon | 30mg | [Pd] | Pd
product | (3R,4R,5R)-1-butyl-5-hydroxymethyl-3,4-piperidinediol | Yield: 53 mg, 74% | C(CCC)N1C[C@H]([C@@H]([C@H](C1)CO)O)O | C10H21NO3
